US04757061
4-aminoandrosta-4,6-dien-3,17-dione hydrochloride [I, R=NH2, R1 =R2 =H, (x)=(y)=single bond, as hydrochloride]
A solution of 0.5 g of 4-aminoandrosta-4,6-dien-3,17-dione in 20 ml of ethanol is treated with 16.7 ml of 0.1N HCl aqueous solution. The yellow solution is then treated with 0.02 g of carbon, filtered and the alcohol is distilled at reduced pressure. The resulting aqueous solution is lyophilized to give 0.54 g of dry title compound as slight yellow powder.

reactant | 4-aminoandrosta-4,6-dien-3,17-dione | 0.5 g | NC1=C2C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C19H25NO2
reactant | HCl | 0.1N, 16.7 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-aminoandrosta-4,6-dien-3,17-dione hydrochloride | Cl.NC1=C2C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | InChI=1S/C19H25NO2.ClH/c1-18-10-8-15(21)17(20)14(18)4-3-11-12-5-6-16(22)19(12,2)9-7-13(11)18;/h3-4,11-13H,5-10,20H2,1-2H3;1H/t11-,12-,13-,18+,19-;/m0./s1
